US09371319B2
Preparation 82: 4-Amino-3,5-dichloro-N,N-dimethylbenzamide
NCS (38 mg, 0.288 mmol) was added to a solution of 4-amino-3-chloro-N,N-dimethylbenzamide (52 mg, 0.262 mmol) in MeCN (520 mL). The reaction mixture was refluxed for 1 hour before being concentrated under vacuum. The residue was purified via Biotage silica gel column chromatography eluting with (cyclohexane/EtOAc 80/20 to 60/40) to afford the title product as a white solid (57 mg, 93%). 1H NMR (500 MHz, CDCl3) d 3.06 (s, 6H), 4.68 (br s, 2H), 7.34 (s, 2H). LC (Method D)-MS (ESI, m/z) tR 1.50 min, 233 [(M+H+), 100%].

reactant | NCS | 0.288 mmol, 38 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | 4-amino-3-chloro-N,N-dimethylbenzamide | 0.262 mmol, 52 mg | NC1=C(C=C(C(=O)N(C)C)C=C1)Cl | C9H11ClN2O
solvent | MeCN | 520 mL | CC#N | C2H3N
product | 4-Amino-3,5-dichloro-N,N-dimethylbenzamide | 57 mg, 93% | NC1=C(C=C(C(=O)N(C)C)C=C1Cl)Cl | C9H10Cl2N2O
